US07754742B2
N-(4-(Iodomethyl)benzyl)-1-methyl-1H-imidazole-4-carboxamide
Gently stir for 30 min a mixture of polymer supported triphenylphosphine (1.0 g, 3 mmol/g, 3.0 mmol), 1H-imidazole (208 mg, 3.06 mmol), and iodine (776 mg; 3.06 mmol) in anhydrous dichloromethane (12 mL). To the reaction mixture, add a mixture of N-(4-(hydroxymethyl)benzyl)-1-methyl-1H-imidazole-4-carboxamide (500 mg, 2.04 mmol) in anhydrous dichloromethane (5.0 mL). Gently stir the reaction mixture for 5 hrs at room temperature. Filter the reaction mixture and wash the filtrate with an aqueous 10% sodium thiosulfate solution. Separate the aqueous layer. Wash the organic layer with water, dry over magnesium sulfate, and concentrate to the title compound (532 mg, 1.50 mmol). MS (m/z): 356 (M+1).

reactant | triphenylphosphine | 3.0 mmol, 1.0 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 1H-imidazole | 3.06 mmol, 208 mg | N1C=NC=C1 | C3H4N2
reactant | iodine | 3.06 mmol, 776 mg | II | I2
reactant | N-(4-(hydroxymethyl)benzyl)-1-methyl-1H-imidazole-4-carboxamide | 2.04 mmol, 500 mg | OCC1=CC=C(CNC(=O)C=2N=CN(C2)C)C=C1 | C13H15N3O2
solvent | dichloromethane | 12 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 5.0 mL | ClCCl | CH2Cl2
product | N-(4-(Iodomethyl)benzyl)-1-methyl-1H-imidazole-4-carboxamide | 1.50 mmol, 532 mg | ICC1=CC=C(CNC(=O)C=2N=CN(C2)C)C=C1 | C13H14IN3O
